US09447035B2
Step 11: Preparation of (S)-3-[4-(2,6-dichlorobenzoylamino)phenyl]-2-[[1-[2-[3-[2-[2-[2-[2-[3-(2,5-dioxo-2,5-dihydropyrrol-1-yl)propionylamino]ethoxy]ethoxy]ethoxy]ethoxy]propionylamino]ethyl]cyclopentanecarbonyl]amino]propionic acid;
To a solution of (S)-2-[[1-(2-aminoethyl)cyclopentanecarbonyl]amino]3-[4-(2,6-dichlorobenzoylamino)phenyl]propionic acid (191.5 mg, 0.39 mmol) and 3-[2-[2-[2-[[3-(2,5-dioxo-2,5-dihydro-pyrrol-1-yl)-propionylamino]-ethoxy]ethoxy]ethoxy]ethoxy]propionic acid-2,5-dioxo-pyrrolidin-1-yl ester (200 mg, 0.39 mmol) in DMSO (2 mL) was added an excess of DIPEA (151 mg, 203 uL, 1.17 mmol) at room temperature under nitrogen atmosphere. The resulting light yellow solution was stirred for 1 h at which time LCMS analysis indicated the absence of starting material. Then, the excess DIPEA was removed under vacuum and the desired product was isolated by purification using an HPLC method to obtain 90 mg (26% yield) of (S)-3-[4-(2,6-dichlorobenzoylamino)phenyl]-2-[[1-[2-[3-[2-[2-[2-[2-[3-(2,5-dioxo-2,5-dihydropyrrol-1-yl)propionylamino]ethoxy]ethoxy]ethoxy]ethoxy]propionylamino]ethyl]cyclopentanecarbonyl]amino]propionic acid as a white solid. ES(+)-HRMS m/e calcd. for C42H53Cl2N5O12 (M+H)+ 890.3141, obsd. 890.3140.

reactant | (S)-2-[[1-(2-aminoethyl)cyclopentanecarbonyl]amino]3-[4-(2,6-dichlorobenzoylamino)phenyl]propionic acid | 0.39 mmol, 191.5 mg | NCCC1(CCCC1)C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C24H27Cl2N3O4
reactant | 3-[2-[2-[2-[[3-(2,5-dioxo-2,5-dihydro-pyrrol-1-yl)-propionylamino]-ethoxy]ethoxy]ethoxy]ethoxy]propionic acid-2,5-dioxo-pyrrolidin-1-yl ester | 0.39 mmol, 200 mg | O=C1N(C(CC1)=O)OC(CCOCCOCCOCCOCCNC(CCN1C(C=CC1=O)=O)=O)=O | C22H31N3O11
reactant | DIPEA | 1.17 mmol, 203 uL, 151 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (S)-3-[4-(2,6-dichlorobenzoylamino)phenyl]-2-[[1-[2-[3-[2-[2-[2-[2-[3-(2,5-dioxo-2,5-dihydropyrrol-1-yl)propionylamino]ethoxy]ethoxy]ethoxy]ethoxy]propionylamino]ethyl]cyclopentanecarbonyl]amino]propionic acid | ClC1=C(C(=O)NC2=CC=C(C=C2)C[C@@H](C(=O)O)NC(=O)C2(CCCC2)CCNC(CCOCCOCCOCCOCCNC(CCN2C(C=CC2=O)=O)=O)=O)C(=CC=C1)Cl | C42H53Cl2N5O12
